US04607030
(a) 3-(1,1-Dimethylethyl)-6-methoxybenzenesulfonyl chloride
12.3 g (0.075 mole) of 4-(1,1-dimethylethyl)anisole, dissolved in 30 ml of methylene chloride, are added dropwise, while cooling with ice, to 16.5 ml of chlorosulfonic acid, dissolved in 20 ml of methylene chloride. The mixture is stirred for 40 minutes and is then poured into ice water. The organic phase is separated off, washed with water, dried with MgSO4 and concentrated.

reactant | 4-(1,1-dimethylethyl)anisole | 0.075 mole, 12.3 g | CC(C)(C)C1=CC=C(C=C1)OC | C11H16O
reactant | chlorosulfonic acid | 16.5 ml | ClS(=O)(=O)O | ClHO3S
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-(1,1-Dimethylethyl)-6-methoxybenzenesulfonyl chloride | CC(C)(C)C=1C=C(C(=CC1)OC)S(=O)(=O)Cl | C11H15ClO3S
